US07160888B2
Synthesis of 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4,4-dimethyl-1,4-dihydro-pyrido[4,3-d][1,3]oxazin-2-one
7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-4,4-dimethyl-1,4-dihydro-pyrido[4,3-d][1,3]oxazin-2-one (452 mg, 0.95 mmol) was hydrogentated using Ra—Ni in EtOH/THF. The reaction was filtered and concentrated. Purification by liquid chromatography (5% MeOH/CH2Cl2 with 0.5% NH4OH) gave a white foam (385 mg, 85% pure). The foam was dissolved in a minimal amount of EtOAc and, upon standing, a white precipitate formed. The precipitate was filtered and washed with Et2O to give the title compound as a white solid (200 mg, 0.42 mmol, 44%). MS: APCI: M+1: 477.1 (Exact Mass: 476.17).

reactant | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-4,4-dimethyl-1,4-dihydro-pyrido[4,3-d][1,3]oxazin-2-one | 0.95 mmol, 452 mg | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC=CC1=CC=2NC(OC(C2C=N1)(C)C)=O | C24H28Cl2N4O2
solvent | EtOH THF | CCO.C1CCOC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Ra—Ni | [Ni] | Ni
product | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4,4-dimethyl-1,4-dihydro-pyrido[4,3-d][1,3]oxazin-2-one | 0.42 mmol, 200 mg, 44% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC1=CC=2NC(OC(C2C=N1)(C)C)=O | C24H30Cl2N4O2
